US09447039B2
Final Step: Preparation of 2-Aminocyclohexanecarbonitrile (I-7b)
To a cold solution of 2-aminocyclohex-1-enecarbonitrile (I-7a: 50 mg, 0.41 mmol) in methanol (3 mL) was added NaCNBH3 (103 mg, 1.64 mmol) and acetic acid (5 drops) at 0° C. The resulting mixture was stirred at room temperature for 16h. The reaction mixture was diluted with ethyl acetate and the organic layer was washed with saturated NaHCO3, brine, dried over anhydrous Na2SO4 and concentrated to afford 40 mg (78%) of diastereomeric mixture of 2-aminocyclohexanecarbonitrile (I-7b) as a gum.

reactant | 2-aminocyclohex-1-enecarbonitrile | 0.41 mmol, 50 mg | NC1=C(CCCC1)C#N | C7H10N2
reactant | NaCNBH3 | 1.64 mmol, 103 mg | [BH3-]C#N.[Na+]
solvent | methanol | 3 mL | CO | CH4O
catalyst | acetic acid | 5 drops | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Aminocyclohexanecarbonitrile | 40 mg, 78% | NC1C(CCCC1)C#N | C7H12N2
